US09399623B2
6-Chloro-2-(3-hydroxy-propylamino)-quinoline-5-carboxylic acid (4,4-difluoro-cyclo hexyl methyl)-amide (60)
The title compound was synthesized according to the procedure described in example 1 using 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide, and 3-amino-propan-1-ol. 1H NMR (400 MHz, DMSO-d6): δ 8.70 (t, J=5.81 Hz, 1H), 7.59 (d, J=9.12 Hz, 1H), 7.47-7.50 (m, 2H), 7.24 (t, J=5.41 Hz, 1H), 6.82 (d, J=9.21 Hz, 1H), 4.58-4.60 (m, 1H), 3.46-3.51 (m, 2H), 3.39-3.44 (m, 2H), 3.20-3.23 (m, 2H), 2.00-2.03 (m, 2H), 1.82-1.85 (m, 3H), 1.68-1.76 (m, 4H), 1.22-1.31 (m, 2H). m/z: 412.2 [M+H]+

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O
reactant | 3-amino-propan-1-ol | NCCCO | C3H9NO
product | 6-Chloro-2-(3-hydroxy-propylamino)-quinoline-5-carboxylic acid (4,4-difluoro-cyclo hexyl methyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)NCCCO)F | C20H24ClF2N3O2
